US07342115B2
A solution of PrMgCl (2M in ether, 0.15 mL) is added dropwise to a solution of 6-(2,6-diethyl-phenyl)-4-ethoxy-pyridine-3-carbaldehyde (100 mg, 0.59 mmol) in ether (5 mL) at room temperature. After the mixture is stirred for 2 hours, aqueous NH4Cl solution (10 mL) is added and the organic layer is separated. The aqueous layer is extracted with ether (1×) and the organic layers are combined, dried and concentrated in vacuo. The residue is purified by PTLC purification (4:1 hexane/EtOAc) to give 1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-butan-1-ol. 1H NMR (CDCl3) 8.48 (s, 1H), 7.26 (t, 1H), 7.12 (d, 2H), 6.74 (s, 1H), 4.90 (s, 1H), 4.08 (q, 2H), 2.70 (s, 1H), 2.33 (m, 4H), 1.85 (m, 2H), 1.30-1.60 (m, 5H), 0.90-1.05 (m, 9H).

reactant | PrMgCl | 2M, 0.15 mL | C(CC)[Mg]Cl
reactant | 6-(2,6-diethyl-phenyl)-4-ethoxy-pyridine-3-carbaldehyde | 0.59 mmol, 100 mg | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C=O)OCC | C18H21NO2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | ether | 5 mL | CCOCC | C4H10O
product | 1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-butan-1-ol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C(CCC)O)OCC | C21H29NO2
